US05374637
A mixture of 5 parts of cis-5-amino-N-[1 -(3-aminopropyl)-3-methoxy-4-piperidinyl]-6-chloro-3,4-dihydro-2H-1-benzopyran-8-carboxamide, 3.2 parts of 2-methylthio-4-pyrimidinol and 79 parts of acetonitrile was stirred over weekend at reflux temperature. The reaction mixture was evaporated and the residue was partitioned between dichloromethane and ammonia (aq.). The aqueous layer was separated and re-extracted with dichloromethane (2x). The combined dichloromethane layers were dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH(NH3) 95:5). The eluent of the two desired fractions was evaporated and the residues were separately crystallized from acetonitrile. The product was filtered off and dried in vacuo at 70° C., yielding a first fraction of 2.22 parts (35.2%) of cis-5-amino-6-chloro-3,4-dihydro-N-[1-[3-[(4-hydroxy-2-pyrimidinyl)amino]propyl]-3-methoxy-4piperidinyl]-2H-1-benzopyran-8-carboxamide hemihydrate; mp. 142.6° C. and a second fraction of 1.00 part (15.9%) of cis-5-amino-6-chloro-3,4-dihydro-N-[1-[3-[(4-hydroxy-2-pyrimidinyl)amino]propyl]-3-methoxy-4-piperidinyl]-2H-1-benzopyran-8-carboxamide hemihydrate; mp. 143.5° C. Total yield: 3.22 parts (51.1%) of product (comp. 128).

reactant | cis-5-amino-N-[1 -(3-aminopropyl)-3-methoxy-4-piperidinyl]-6-chloro-3,4-dihydro-2H-1-benzopyran-8-carboxamide | NC1=C(C=C(C2=C1CCCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCN)OC)Cl | C19H29ClN4O3
reactant | 2-methylthio-4-pyrimidinol | CSC1=NC=CC(=N1)O | C5H6N2OS
solvent | acetonitrile | C(C)#N | C2H3N
product | cis-5-amino-6-chloro-3,4-dihydro-N-[1-[3-[(4-hydroxy-2-pyrimidinyl)amino]propyl]-3-methoxy-4piperidinyl]-2H-1-benzopyran-8-carboxamide hemihydrate | 35.2% | O.NC1=C(C=C(C2=C1CCCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCCNC2=NC=CC(=N2)O)OC)Cl.NC2=C(C=C(C1=C2CCCO1)C(=O)N[C@@H]1[C@@H](CN(CC1)CCCNC1=NC=CC(=N1)O)OC)Cl | InChI=1S/2C23H31ClN6O4.H2O/c2*1-33-18-13-30(9-3-7-26-23-27-8-5-19(31)29-23)10-6-17(18)28-22(32)15-12-16(24)20(25)14-4-2-11-34-21(14)15;/h2*5,8,12,17-18H,2-4,6-7,9-11,13,25H2,1H3,(H,28,32)(H2,26,27,29,31);1H2/t2*17-,18+;/m00./s1
